US08975256B2
7-Bromo-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 6)
A mixture of 7-bromo-8-hydroxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 5, 62.7 mg, 0.220 mmol), methyl iodide (68.6 μL, 1.10 mmol), and cessium carbonate (180 mg, 0.552 mmol) was suspended in anhydrous N,N-dimethylformamide (1 mL) and stirred at room temperature for 2.5 hours. Ethyl acetate (10 mL) and water (10 mL) were added to the reaction mixture and partitioned. The organic layer was washed with saturated brine (10 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (45.5 mg) as an orange amorphous product. (Yield 69%)

reactant | 7-bromo-8-hydroxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.220 mmol, 62.7 mg | BrC1=CC=C2NC(C(NC2=C1CO)=O)(C)C | C11H13BrN2O2
reactant | methyl iodide | 1.10 mmol, 68.6 μL | CI | CH3I
reactant | carbonate | 0.552 mmol, 180 mg | C([O-])([O-])=O
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 7-Bromo-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 45.5 mg, Yield 69% | BrC1=CC=C2NC(C(N(C2=C1CO)C)=O)(C)C | C12H15BrN2O2
